US07977338B2
A mixture of 0.356 g of [4-(3-amino-pyridin-4-ylamino)-phenyl]-acetic acid methyl ester and 9.2 ml of triethyl orthoformate is stirred and refluxed for 2 hours. The mixture obtained is allowed to cool to rt and is concentrated in vacuo. (4-Imidazo[4,5-c]pyridin-1-yl-phenyl)-acetic acid methyl ester is obtained in the form of a solid: ES-MS: 268.1 [M+H]+; single peak at tR=2.03 min (System 1).

reactant | [4-(3-amino-pyridin-4-ylamino)-phenyl]-acetic acid methyl ester | 0.356 g | COC(CC1=CC=C(C=C1)NC1=C(C=NC=C1)N)=O | C14H15N3O2
reactant | triethyl orthoformate | 9.2 ml | C(OCC)(OCC)OCC | C7H16O3
product | (4-Imidazo[4,5-c]pyridin-1-yl-phenyl)-acetic acid methyl ester | COC(CC1=CC=C(C=C1)N1C=NC=2C=NC=CC21)=O | C15H13N3O2
